US08431695B2
Preparation of 7-(1-acetylpiperidin-4-yl)-5-(2-benzyl-1,3-benzothiazol-5-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine
In a manner similar to the procedure described for the preparation of Example 331 and using 5-(2-benzyl-1,3-benzothiazol-5-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine and acetyl chloride as starting material, 17.5 mg (32%) of the desired product was isolated. 1H NMR (400 MHz, CD2Cl2) δ 8.06 (s, 1H), 7.95 (2H), 7.92 (s, 1H), 7.48 (d, 1H), 7.43-7.36 (m, 5H), 6.56 (s, 1H), 5.60 (s, 2H), 4.75-4.69 (m, 1H), 4.47 (s, 2H), 3.98-3.92 (m, 1H), 3.54-3.46 (m, 1H), 3.31-3.28 (m, 1H), 2.80-2.72 (m, 1H), 2.24-2.20 (m, 2H), 2.10 (s, 3H), 1.75-1.64 (m, 2H); LC-MS m/z [M+H]+ 483.2, RT 3.02 min.

reactant | 5-(2-benzyl-1,3-benzothiazol-5-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | C(C1=CC=CC=C1)C=1SC2=C(N1)C=C(C=C2)C=2C=C(N1N=CN=C(C12)N)C1CCNCC1 | C25H24N6S
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 7-(1-acetylpiperidin-4-yl)-5-(2-benzyl-1,3-benzothiazol-5-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 17.5 mg, 32% | C(C)(=O)N1CCC(CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=C(N=C(S1)CC1=CC=CC=C1)C2 | C27H26N6OS
